*$
*TPS7A4901
*****************************************************************************
* (C) Copyright 2017, 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS7A4901
* Date: 28FEB2017
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: TPS7A30-49EVM-567
* EVM Users Guide:  SLVU405–August 2010
* Datasheet: SBVS121E –AUGUST 2010–REVISED MAY 2015
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:1.2
*<Made this change to the model>
*          1. Model has been updated to support for inverting configuration.
*
*
* Final 1.1
* Released to Web
* Updates:1.1
*<Made this change to the model>
*          1. The model has been updated using New template.
*          2. Dropout measurement done with respect to IOUT
* Final 1.00
* Released to Web
*
*****************************************************************************
.SUBCKT TPS7A4901_TRANS OUT FB NC GND EN NR DNC IN PAD

.PARAM
+   psrr=224u
+   uvlo=2.95
+   venb=2.1
+   ilim=390m
+   pole=500
+   zero=100k
+   rinp=1e7
+   ttrn=1u
+   rout=1m
+   vref=1.185
+   ehys=1.7
+   uhys=0.05

R_R13       0 PAD  1e9
E_ABM1      N799364 0 VALUE { {MIN(V(N798163), (V(Vzz_INT)+(ILIM*ROUT)))} }
V_Vload     VZZ OUT 0Vdc
X_F1        N506750 VZZ N506376 VYY TPS7A4901_F1
E_E11       V_FBK 0 VALUE { V(FB, GND) }
R_R1        VXX N506376  {RINP}
R_R11       DNC IN  1e6
R_R2        N506318 VXX  {PSRR*RINP}
R_R12       GND DNC  1e6
X_S2        N506546 0 IN N506376 TPS7A4901_S2
C_C1        VXX N506376  {1/(6.28*RINP*POLE)}
R_U1_R9     U1_N7715581 NR  1m

X_U1_U2     IN_PRE U1_N627863 U1_N6278133 U1_UVLO_OK TPS7A4901_COMPHYS_BASIC_GEN
+   PARAMS: VDD=1 VSS=0 VTHRESH=0.5

X_U1_U1         EN_INT U1_N628879 U1_N628829 U1_EN_OK TPS7A4901_COMPHYS_BASIC_GEN
+   PARAMS: VDD=1 VSS=0 VTHRESH=0.5

C_U1_C4     0 VIN_EN_OK  1u IC=0
R_U1_R4     U1_N629335 U1_N628541  10 TC=0,0
R_U1_R8     U1_N769717 NR  280k TC=0,0
X_U1_U4     U1_N672242 N506318 TPS7A4901_d_d PARAMS:
E_U1_E5     U1_N769717 GND VALUE { V(U1_N15847249, 0) }
V_U1_V3     U1_N6278133 0 {UHYS}
X_U1_U3     VIN_EN_OK U1_N630277 TPS7A4901_d_d PARAMS:
V_U1_V1     U1_N628829 0 {EHYS}
C_U1_C2     0 U1_N628541  1n
C_U1_C3     GND N506318  1n IC=0
V_U1_V4     U1_N627863 0 {UVLO}
V_U1_V5     GND U1_N672242 -5.5m
V_U1_V2     U1_N628879 0 {VENB}

E_U1_E8     U1_DROP 0 TABLE { V(LOAD, 0) }
+ ( (0,0) (0.1m,50m) (5m,80m) (10m,100m) (15m,120m) (150m,330m) )

C_U1_C5     GND U1_N7715581  1n IC=0
E_U1_ABM6   U1_N629219 0 VALUE { IF(V(VIN_EN_OK)>0.5, V(U1_NR_INT), 0) }
R_U1_R2     GND U1_N628541  1G
E_U1_ABM5   U1_N629917 0 VALUE { MIN(V(U1_N628541), MAX(V(IN_PRE)-V(U1_DROP), 0)) }
E_U1_E6     U1_NR_INT 0 VALUE { V(NR, GND) }
E_U1_ABM9   U1_N630277 0 VALUE { if( V(U1_UVLO_OK) > 0.5 & V(U1_EN_OK) > 0.5,1,0) }

E_U1_ABM4   U1_N629335 0 VALUE { V(U1_N628493)
+ * (ABS(V(OUT_INT)) + 1e-6)
+ / (ABS(V(V_FBK)) + 1e-6)  }

R_U1_R3     U1_N629219 U1_N628493  {3.333e5*SQRT(TTRN)} TC=0,0
R_U1_R1     GND U1_N628493  1G
E_U1_E4     U1_N6294851 GND VALUE { V(U1_N629917, 0) }
E_U1_ABM10  U1_N15847249 0 VALUE { IF(V(VIN_EN_OK)>0.5,{VREF},0)    }
R_U1_R6     U1_N630277 VIN_EN_OK  {80/0.693} TC=0,0
C_U1_C1     0 U1_N628493  {1e-6*SQRT(TTRN)} IC=0
R_U1_R5     U1_N6294851 N506318  10 TC=0,0
R_R14       0 PAD  1e6
C_C2        VXX N506318  {1/(6.28*PSRR*RINP*ZERO)}
R_R9        NC IN  1e6
R_R6        N506754 VYY  10 TC=0,0
E_E6        IN_PRE 0 VALUE { V(IN, GND) }
E_ABM2      LOAD 0 VALUE { I(V_Vload) }
E_E15       OUT_INT 0 VALUE { V(OUT, GND) }
X_U4        GND OUT TPS7A4901_d_d PARAMS:
C_C5        N506376 GND  0.5n IC=0
R_R5        N506750 VYY  {ROUT}
C_C3        GND VYY  1n
R_R8        VIN_EN_OK N506546  10 TC=0,0
R_R10       GND NC  1e6
E_E12       N798163 0 VALUE { V(VXX, GND) }
E_E14       VZZ_INT 0 VALUE { V(VZZ, GND) }
E_E5        EN_INT 0 VALUE { V(EN, GND) }
C_C4        0 N506546  1u
E_E13       N506754 GND VALUE { V(N799364, 0) }

.ENDS TPS7A4901_TRANS

**$
.subckt TPS7A4901_F1 1 2 3 4

F_F1        3 4 VF_F1 1
VF_F1       1 2 0V

.ends TPS7A4901_F1

**$
.subckt TPS7A4901_S2 1 2 3 4

S_S2        3 4 1 2 _S2
RS_S2       1 2 1G

.MODEL _S2 VSWITCH
+   Roff=100
+   Ron=10
+   Voff=0.1V
+   Von=0.9V

.ends TPS7A4901_S2

**$
.SUBCKT TPS7A4901_COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5

EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K

.ENDS TPS7A4901_COMPHYS_BASIC_GEN

**$
.subckt TPS7A4901_d_d 1 2

d1 1 2 dd

.model dd d
+   is=1e-015
+   n=0.01
+   tt=1e-011

.ends TPS7A4901_d_d
